US06235731B1
2) Synthesis of N-[1-[3-(2-methoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 0.81 g (1.64 inmol.) of N-[1-[3-(2-methoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (5 ml) was added, at room temperature, 1 ml (12 mmol.) of 12N hydrochloric acid. The mixture was stirred for several minutes. The reaction mixture was concentrated, to which was added acetonitrile. The resulting crystalline precipitate was collected by filtration, which was washed with ethanol and diethyl ether to give the object compound (809.1 mg, 87%) as orange crystals, m.p.164-168° C.

reactant | N-[1-[3-(2-methoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.81 g | COC(=O)C1=C(OCCCN2CCC(CC2)NC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=CC=C1 | C26H28N4O4S
reactant | hydrochloric acid | 12 mmol, 12N, 1 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[1-[3-(2-methoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 809.1 mg, 87% | Cl.Cl.COC(=O)C1=C(OCCCN2CCC(CC2)NC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=CC=C1 | InChI=1S/C26H28N4O4S.2ClH/c1-33-26(32)20-6-2-3-7-21(20)34-15-5-12-29-13-10-18(11-14-29)28-25(31)22-16-19-17-27-23-8-4-9-24(35-22)30(19)23;;/h2-4,6-9,16-18H,5,10-15H2,1H3,(H,28,31);2*1H
